*-- chiplet bump (interposerto pkg) subckt model
.subckt bump_subckt bump pkg

.param ubump_rval = 0.2e-3
.param ubump_lval = 5.7e-12

rpad ubump mid 'ubump_rval'
lpad mid pad 'ubump_lval'
*cpad mid 0 'ubump_cval'
.ends ubump_subckt
