*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.003/0.003


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_4666_4666
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 43.1344
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 43.1344
cd_0_0_0_0 nd_1_0_666_666_ci 0 4.63667e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 64.4708
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 64.4708
cd_0_0_0_1 nd_1_0_2000_666_ci 0 3.10218e-11
rdload_0_0_0_2 nd_1_0_3333_666 0 47.0182
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 47.0182
cd_0_0_0_2 nd_1_0_3333_666_ci 0 4.25368e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 252.382
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 252.382
cd_0_0_0_3 nd_1_0_4666_666_ci 0 7.92449e-12
rdload_0_0_0_4 nd_1_0_6000_666 0 100.02
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 100.02
cd_0_0_0_4 nd_1_0_6000_666_ci 0 1.9996e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 38.8342
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 38.8342
cd_0_0_0_5 nd_1_0_7333_666_ci 0 5.15009e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 55.7737
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 55.7737
cd_0_0_0_6 nd_1_0_8666_666_ci 0 3.58592e-11
rdload_0_0_0_7 nd_1_0_666_2000 0 41.8255
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 41.8255
cd_0_0_0_7 nd_1_0_666_2000_ci 0 4.78177e-11
rdload_0_0_0_8 nd_1_0_2000_2000 0 61.4951
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 61.4951
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 3.25229e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 218.102
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 218.102
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 9.17003e-12
rdload_0_0_0_10 nd_1_0_4666_2000 0 41.4657
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 41.4657
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 4.82326e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 60.7354
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 60.7354
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 3.29297e-11
rdload_0_0_0_12 nd_1_0_7333_2000 0 116.147
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 116.147
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 1.72196e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 40.913
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 40.913
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 4.88842e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 60.5374
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 60.5374
cd_0_0_0_14 nd_1_0_666_3333_ci 0 3.30374e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 113.158
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 113.158
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 1.76744e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 67.7598
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 67.7598
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 2.9516e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 319.777
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 319.777
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 6.25435e-12
rdload_0_0_0_18 nd_1_0_6000_3333 0 109.091
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 109.091
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 1.83333e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 66.3495
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 66.3495
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 3.01434e-11
rdload_0_0_0_20 nd_1_0_8666_3333 0 139.717
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 139.717
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 1.43146e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 43.4783
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 43.4783
cd_0_0_0_21 nd_1_0_666_4666_ci 0 4.59999e-11
rdload_0_0_0_22 nd_1_0_2000_4666 0 546.762
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 546.762
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 3.6579e-12
rdload_0_0_0_23 nd_1_0_3333_4666 0 130.947
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 130.947
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 1.52733e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 36.8726
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 36.8726
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 5.42408e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 178.154
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 178.154
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 1.12262e-11
rdload_0_0_0_26 nd_1_0_7333_4666 0 46.4741
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 46.4741
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 4.30347e-11
rdload_0_0_0_27 nd_1_0_8666_4666 0 10103.6
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 10103.6
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 1.9795e-13
rdload_0_0_0_28 nd_1_0_666_6000 0 166.92
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 166.92
cd_0_0_0_28 nd_1_0_666_6000_ci 0 1.19818e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 83.2856
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 83.2856
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 2.40138e-11
rdload_0_0_0_30 nd_1_0_3333_6000 0 71.8968
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 71.8968
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 2.78176e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 50.4454
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 50.4454
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 3.96468e-11
rdload_0_0_0_32 nd_1_0_6000_6000 0 38.8943
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 38.8943
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 5.14214e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 55.3387
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 55.3387
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 3.6141e-11
rdload_0_0_0_34 nd_1_0_8666_6000 0 156.26
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 156.26
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 1.27992e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 81.1061
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 81.1061
cd_0_0_0_35 nd_1_0_666_7333_ci 0 2.46591e-11
rdload_0_0_0_36 nd_1_0_2000_7333 0 215.236
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 215.236
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 9.29211e-12
rdload_0_0_0_37 nd_1_0_3333_7333 0 93.6734
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 93.6734
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 2.13508e-11
rdload_0_0_0_38 nd_1_0_4666_7333 0 80.0878
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 80.0878
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 2.49726e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 54.2387
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 54.2387
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 3.6874e-11
rdload_0_0_0_40 nd_1_0_7333_7333 0 92.866
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 92.866
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 2.15364e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 60.2529
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 60.2529
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 3.31934e-11
rdload_0_0_0_42 nd_1_0_666_8666 0 53.2269
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 53.2269
cd_0_0_0_42 nd_1_0_666_8666_ci 0 3.7575e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 40.478
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 40.478
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 4.94096e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 300.579
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 300.579
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 6.65383e-12
rdload_0_0_0_45 nd_1_0_4666_8666 0 109.532
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 109.532
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 1.82596e-11
rdload_0_0_0_46 nd_1_0_6000_8666 0 89.371
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 89.371
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 2.23786e-11
rdload_0_0_0_47 nd_1_0_7333_8666 0 58.1666
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 58.1666
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 3.4384e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 106.512
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 106.512
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 1.87771e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val154'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val155'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val156'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val157'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val158'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val159'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val160'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val161'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val162'
rd_add0 nd0 0 'esr33'
rd_add1 nd1 0 'esr34'
rd_add2 nd2 0 'esr35'
rd_add3 nd3 0 'esr36'
rd_add4 nd4 0 'esr37'
rd_add5 nd5 0 'esr38'
rd_add6 nd6 0 'esr39'
rd_add7 nd7 0 'esr40'
rd_add8 nd8 0 'esr41'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_666_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_666_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_666_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_666_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_666_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_2000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_2000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3333_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3333_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3333_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3333_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3333_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3333_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3333_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3333_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3333_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3333_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4666_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4666_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4666_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4666_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4666_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_6000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_6000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7333_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7333_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7333_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7333_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7333_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8666_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8666_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8666_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8666_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8666_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_8666_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_8666_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_8666_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_8666_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_8666_8666  0.001

.ends chiplet3
